US05932547
Solutions of 40% leuprolide acetate (w/w) in DMSO were prepared, loaded into reservoirs, stored for two months at 80° C. and analyzed as described above. Results, shown in FIGS. 1 (RP-HPLC) and 2 (SEC) show that 81.1% leuprolide was recovered, with only 14.6% chemical degradation and 5.1% physical aggregation.

reactant | leuprolide | CCNC(=O)[C@@H]1CCCN1C(=O)[C@H](CCCNC(=N)N)NC(=O)[C@H](CC(C)C)NC(=O)[C@@H](CC(C)C)NC(=O)[C@H](CC=2C=CC(=CC2)O)NC(=O)[C@H](CO)NC(=O)[C@H](CC3=CNC4=C3C=CC=C4)NC(=O)[C@H](CC5=CNC=N5)NC(=O)[C@@H]6CCC(=O)N6 | C59H84N16O12
reactant | DMSO | CS(=O)C | C2H6OS
product | leuprolide acetate | 40% | CCNC(=O)[C@@H]1CCCN1C(=O)[C@H](CCCNC(=N)N)NC(=O)[C@H](CC(C)C)NC(=O)[C@@H](CC(C)C)NC(=O)[C@H](CC=2C=CC(=CC2)O)NC(=O)[C@H](CO)NC(=O)[C@H](CC3=CNC4=C3C=CC=C4)NC(=O)[C@H](CC5=CNC=N5)NC(=O)[C@@H]6CCC(=O)N6.CC(=O)O | InChI=1S/C59H84N16O12.C2H4O2/c1-6-63-57(86)48-14-10-22-75(48)58(87)41(13-9-21-64-59(60)61)68-51(80)42(23-32(2)3)69-52(81)43(24-33(4)5)70-53(82)44(25-34-15-17-37(77)18-16-34)71-56(85)47(30-76)74-54(83)45(26-35-28-65-39-12-8-7-11-38(35)39)72-55(84)46(27-36-29-62-31-66-36)73-50(79)40-19-20-49(78)67-40;1-2(3)4/h7-8,11-12,15-18,28-29,31-33,40-48,65,76-77H,6,9-10,13-14,19-27,30H2,1-5H3,(H,62,66)(H,63,86)(H,67,78)(H,68,80)(H,69,81)(H,70,82)(H,71,85)(H,72,84)(H,73,79)(H,74,83)(H4,60,61,64);1H3,(H,3,4)/t40-,41-,42-,43+,44-,45-,46-,47-,48-;/m0./s1
